US06489344B1
Preparation of Polymer-bound {2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl](2-pyrrolidinylethyl)amine
Made using the same procedure as for polymer-bound [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine except that 1-(2-hydroxyethyl)pyrrolidine (4.9 mL, 42 mmol) was used.

reactant | [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | CN(CCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCNC1=NC=C(C=C1)[N+](=O)[O-])C | C17H22N6O6S
reactant | 1-(2-hydroxyethyl)pyrrolidine | 42 mmol, 4.9 mL | OCCN1CCCC1 | C6H13NO
product | {2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl](2-pyrrolidinylethyl)amine | [N+](=O)([O-])C=1C=CC(=NC1)NCCN(CCN1CCCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C19H24N6O6S
